US05580866
Dimethylsulphate (1.26 g) was added dropwise to a vigorously stirred suspension of 3-hydroxyimino-2,3,4,5-tetrahydro-1,4-benzothiazepine (2 g, prepared in a similar manner to Example 25 above) in a mixture of a 10% aqueous solution of sodium hydroxide (4 ml) and ethanol (150 ml). The reaction mixture was kept at room temperature for 24 hours and then extracted with dichloromethane. The organic layer was dried and the solvent was removed by evaporation. Purification of the solid residue by flash chromatography using dichloromethane as eluent gave 3-methoxyimino-2,3,4,5-tetrahydro-1,4-benzothiazepine, which was recrystallised from hexane. Yield 1.51 g (m.p. 101°-102° C.).

reactant | Dimethylsulphate | 1.26 g | COS(=O)(=O)OC | C2H6O4S
reactant | 3-hydroxyimino-2,3,4,5-tetrahydro-1,4-benzothiazepine | ON=C1CSC2=C(CN1)C=CC=C2 | C9H10N2OS
reactant | sodium hydroxide | 4 ml | [OH-].[Na+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 3-methoxyimino-2,3,4,5-tetrahydro-1,4-benzothiazepine | CON=C1CSC2=C(CN1)C=CC=C2 | C10H12N2OS
